US07968746B2
Oxidation as described in protocol B, using 102 mg (0.287 mmol) of 6-hydroxy-2,5,7,8-tetramethyl-N-phenethylchroman-2-carboxamide and 355 mg CAN (0.647 mmol) yielded 95.8 mg of 2-hydroxy-2-methyl-N-phenethyl-4-(2,4,5-trimethyl-3,6-dioxocyclohexa-1,4-dienyl)butanamide as a yellow oil.

reactant | 6-hydroxy-2,5,7,8-tetramethyl-N-phenethylchroman-2-carboxamide | 0.287 mmol, 102 mg | OC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)NCCC1=CC=CC=C1)C)C | C22H27NO3
reactant | CAN | 0.647 mmol, 355 mg | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
product | 2-hydroxy-2-methyl-N-phenethyl-4-(2,4,5-trimethyl-3,6-dioxocyclohexa-1,4-dienyl)butanamide | 95.8 mg | OC(C(=O)NCCC1=CC=CC=C1)(CCC1=C(C(C(=C(C1=O)C)C)=O)C)C | C22H27NO4
